US05102877
To a solution of 2-(1-benzyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane (7.8 g) in toluene (70 ml) was added allyl chloroformate (3.9 ml) and the mixture was stirred at 60° C. for 30 minutes. The reaction mixture was then concentrated and the residue was purified by column chromatography to give 2-(1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane (6.95 g).

reactant | 2-(1-benzyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane | 7.8 g | C(C1=CC=CC=C1)N1CC(=CCC1)C1(OCCO1)C | C16H21NO2
reactant | allyl chloroformate | 3.9 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane | 6.95 g | C(C=C)OC(=O)N1CC(=CCC1)C1(OCCO1)C | C13H19NO4
